US04572914
Preparation of 1-[4-(1,1,2,2-tetrafluoroethoxy)phenylcarbamoyl]-3-(4-chlorophenyl)-4-phenyl-2-pyrazoline
1.7 g of 4-(1,1,2,2-tetrafluoroethoxy)phenylisocyanate were added, while stirring, to a suspension of 1.8 g of 3-(4-chlorophenyl)-4-phenyl-2-pyrazoline in 40 ml of dry diethyl ether. After stirring at room temperature for approximately 1 hour 40 ml of petroleum ether (40-60) were added to the reaction mixture, after which stirring at room temperature was continued for another 3 hours. The precipitate formed was sucked off and washed with petroleum ether (40-60). The desired product was obtained in a yield of 3.1 g; melting-point 178°-180° C.

reactant | 4-(1,1,2,2-tetrafluoroethoxy)phenylisocyanate | 1.7 g | FC(C(F)F)(OC1=CC=C(C=C1)N=C=O)F | C9H5F4NO2
reactant | 3-(4-chlorophenyl)-4-phenyl-2-pyrazoline | 1.8 g | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 1-[4-(1,1,2,2-tetrafluoroethoxy)phenylcarbamoyl]-3-(4-chlorophenyl)-4-phenyl-2-pyrazoline | FC(C(F)F)(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)F | C24H18ClF4N3O2
